US05082856
A mixture of 9.25 g (28 mmol) of ethyl γ-ketooctadecanoate and 9.00 g of ethylene glycol (145 mmol) was refluxed for 5 hours in 300 ml of toluene in the presence of a small amount of p-toluenesulfonic acid catalyst while removing water by means of Dean-Stark apparatus. The resulting mixture was washed with an aqueous saturated sodium bicarbonate solution and then with an aqueous saturated solution of sodium chloride. An oily product obtained by removing the solvent under reduced pressure was subjected to column chromatography over silica gel (eluent: ethyl acetate/hexane=1/10) to give 7.42 g (71% yield) of ethyl γ-ketooctadecanoate ethylene ketal.

reactant | ethyl γ-ketooctadecanoate | 28 mmol, 9.25 g | O=C(CCC(=O)OCC)CCCCCCCCCCCCCC | C20H38O3
reactant | ethylene glycol | 145 mmol, 9.00 g | C(CO)O | C2H6O2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | ethyl γ-ketooctadecanoate ethylene ketal | 7.42 g, 71% yield | C1COC(CCC(CCCCCCCCCCCCCC)=O)(OCC)O1 | C22H42O4
